US06995161B2
To a stirred solution of 3-ethyl-6-methoxy-5-[2-methoxy-4-(trifluoromethoxy) phenyl]pyrazin-2-ylamine (86 mg, 0.25 mmol) in 48% hydrogen bromide (0.3 mL) at 0° C. is added a solution of sodium nitrite (21 mg, 0.3 mmol) in water (1 mL). After 1.5 h copper bromide (43 mg, 0.3 mmol) is added and the mixture heated to 70° C. for 1 h. The mixture is cooled to room temperature and extracted with ether. The extracts are dried (sodium sulfate), filtered and concentrated to give [4-(5-bromo-6-ethyl-3-methoxypyrazin-2-yl)-3-methoxyphenoxy]trifluoromethane (76 mg).

reactant | 3-ethyl-6-methoxy-5-[2-methoxy-4-(trifluoromethoxy) phenyl]pyrazin-2-ylamine | 0.25 mmol, 86 mg | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC(F)(F)F)OC)OC)N | C15H16F3N3O3
reactant | sodium nitrite | 0.3 mmol, 21 mg | N(=O)[O-].[Na+]
reactant | hydrogen bromide | 0.3 mL | Br | BrH
solvent | water | 1 mL | O | H2O
catalyst | copper bromide | 0.3 mmol, 43 mg | [Cu](Br)Br
product | [4-(5-bromo-6-ethyl-3-methoxypyrazin-2-yl)-3-methoxyphenoxy]trifluoromethane | 76 mg | BrC=1N=C(C(=NC1CC)C1=C(C=C(OC(F)(F)F)C=C1)OC)OC | C15H14BrF3N2O3
